US06451821B1
The process is performed as in Example 3, starting with 8.1 g of (+)-(2S)-2-amino-3-cyclohexyl-1-propanol and 9.8 cm3 of tert-butyl isothiocyanate in 79 cm3 of ethanol. The reaction medium is stirred for 72 hours at a temperature in the region of 20° C. After concentration of the reaction mass under reduced pressure (5 kPa) at a temperature in the region of 50° C., the oil obtained is taken up in 110 cm3 of cold petroleum ether. The crystals are filtered off and dried under reduced pressure (10 Pa) at a temperature in the region of 60° C. 11.1 g of N-(tert-butyl)-N′-[(1S)-1-cyclohexylmethyl-2-hydroxyethyl]thiourea are obtained in the form of a white solid melting at 97° C.

reactant | (+)-(2S)-2-amino-3-cyclohexyl-1-propanol | 8.1 g | N[C@H](CO)CC1CCCCC1 | C9H19NO
reactant | tert-butyl isothiocyanate | 9.8 cm3 | C(C)(C)(C)N=C=S | C5H9NS
solvent | ethanol | 79 cm3 | C(C)O | C2H6O
product | N-(tert-butyl)-N′-[(1S)-1-cyclohexylmethyl-2-hydroxyethyl]thiourea | 11.1 g | C(C)(C)(C)NC(=S)N[C@H](CO)CC1CCCCC1 | C14H28N2OS
